US07074800B1
Nitrogen was bubbled through a mixture of 7-hydroxy-4-(indol-5-yloxy)-6-methoxyquinazoline (3.07 g, 10 mmol), (prepared as described for the starting material in Example 107), potassium carbonate (4.14 g, 30 mmol) and (2R)-(−)-glycidyl tosylate (4.57 g, 20 mmol) in DMA (35 ml) for 5 minutes. The mixture was then stirred at 60° C. for 2 hours under an atmosphere of nitrogen and allowed to cool to ambient temperature. The reaction mixture was filtered and the filtrate evaporated in vacuo. The residue was purified by column chromatography on silica by gradient elution with dichloromethane/methanol (100/0 to 95/5), to give (2R)-4-(indol-5-yloxy)-6-methoxy-7-(oxiran-2-ylmethoxy)quinazoline as a yellow solid (1.92 g, 53%).

reactant | 7-hydroxy-4-(indol-5-yloxy)-6-methoxyquinazoline | 10 mmol, 3.07 g | OC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=CNC2=CC1)OC | C17H13N3O3
reactant | potassium carbonate | 30 mmol, 4.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2R)-(−)-glycidyl tosylate | 20 mmol, 4.57 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]2CO2 | C10H12O4S
solvent | DMA | 35 ml | CC(=O)N(C)C | C4H9NO
product | (2R)-4-(indol-5-yloxy)-6-methoxy-7-(oxiran-2-ylmethoxy)quinazoline | 1.92 g, 53% | N1C=CC2=CC(=CC=C12)OC1=NC=NC2=CC(=C(C=C12)OC)OC[C@@H]1OC1 | C20H17N3O4
